US04466980
Oxalyl chloride (48 microliters; 0.55 mmole) was dissolved in 2 ml of dry dichloromethane, and the solution was cooled to -30° C. Dimethyl sulfoxide (78 microliters; 110 mmoles) was added, and the mixture was stirred for 3 minutes. A solution of 158 mg (0.5 mmole) of 4(R)-t-butyldimethylsilyloxy-2-(4-hydroxybutylthio)-2-cyclopentenone in 1 ml of dry dichloromethane was added over the course of 1 minute, and the mixture was stirred at -30° C. for 30 minutes. Then, 5 ml of a saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and concentrated. The resulting oily product was chromatographed on a silica gel column using hexane/ethyl acetate (5/1) to give 96 mg (yield 61%) of 4(RS)-t-butyldimethylsilyloxy-2-(4-oxobutylthio)-2-cyclopentenone.

reactant | Oxalyl chloride | 0.55 mmole, 48 microliters | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethyl sulfoxide | 110 mmoles, 78 microliters | CS(=O)C | C2H6OS
reactant | 4(R)-t-butyldimethylsilyloxy-2-(4-hydroxybutylthio)-2-cyclopentenone | 0.5 mmole, 158 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C=C(C(C1)=O)SCCCCO | C15H28O3SSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4(RS)-t-butyldimethylsilyloxy-2-(4-oxobutylthio)-2-cyclopentenone | 96 mg, yield 61% | [Si](C)(C)(C(C)(C)C)OC1C=C(C(C1)=O)SCCCC=O | C15H26O3SSi
